US05834499
To a solution of 75 mg of 2-(3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole in 1.4 ml of methylene chloride, were added 0.18 ml of acetic acid, 0.045 ml of acetone, and 147 mg of sodium triacetoxyborohydride, followed by stirring at room temperature for 2 hours. Water and a saturated aqueous solution of sodium bicarbonate were added to the reaction mixture. The resulting mixture was extracted with chloroform, followed by drying over anhydrous magnesium sulfate. The solvent was then evaporated and the resulting residue was purified by silica gel column chromatography (eluent: chloroform:methanol:29% ammonium=300:10:1), whereby 30 mg of 2-(1-isopropyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole was obtained. The resulting product was dissolved in methanol. Fumaric acid was added to cause crystallization, and crystals were recrystallized from acetonitrile-methanol to give a fumarate.

reactant | 2-(3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole | 75 mg | N1CC(CC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C14H14N2S
reactant | acetic acid | 0.18 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 147 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1.4 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | acetone | 0.045 ml | CC(=O)C | C3H6O
product | 2-(1-isopropyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole | 30 mg | C(C)(C)N1CC(CC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C17H20N2S
